US05808115
To a mixture of indene (426 mg, 3.67 mmol), dicyclohexylcarbodiimide (150 mg, 0.73 mmol), hydrogen peroxide (1 mL of 30% aqueous, 9.8 mmol) and ethanol (5 mL) was added 10 mg of cation exchange resin (mild) beads. The reaction mixture was stirred at room temperature for twenty-four hours. Filtration removed the dicyclohexylurea and the resin beads. The filtrate was partitioned in a separatory funnel between ether (30 mL) and water (20 mL). Standard ethereal workup, followed by column chromatography on silica gel (elution with hexanes:ether, 10:1) afforded indene epoxide (94 mg, 98%).

reactant | indene | 3.67 mmol, 426 mg | C1C=CC2=CC=CC=C12 | C9H8
reactant | dicyclohexylcarbodiimide | 0.73 mmol, 150 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | hydrogen peroxide | 9.8 mmol, 1 mL | OO | H2O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | indene epoxide | 94 mg, 98% | C1C2C(O2)C3=CC=CC=C31 | C9H8O
